US08729078B2
1H-pyrazole-3-carbonitrile (850 mg, 9.13 mmol) was dissolved in 15 mL of dry DMSO and potassium tert-butoxide (1.08 g, 9.13 mmol, Eq: 1.00) was added. The mixture was stirred at room temperature for 20 minutes and 2-bromo-6-fluorobenzaldehyde (3.71 g, 18.3 mmol, Eq: 2) was added. The mixture was stirred at room temperature overnight and then extracted with ethyl acetate and water. The organic layer was dried and concentrated. The crude material was purified by flash chromatography (silica gel, 40 g, 20% to 40% EtOAc in hexanes) to give 1-(3-bromo-2-formylphenyl)-1H-pyrazole-3-carbonitrile (1.83 g, 73%).

reactant | 1H-pyrazole-3-carbonitrile | 9.13 mmol, 850 mg | N1N=C(C=C1)C#N | C4H3N3
reactant | potassium tert-butoxide | 9.13 mmol, 1.08 g | CC(C)([O-])C.[K+]
reactant | 2-bromo-6-fluorobenzaldehyde | 18.3 mmol, 3.71 g | BrC1=C(C=O)C(=CC=C1)F | C7H4BrFO
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
product | 1-(3-bromo-2-formylphenyl)-1H-pyrazole-3-carbonitrile | 1.83 g, 73% | BrC=1C(=C(C=CC1)N1N=C(C=C1)C#N)C=O | C11H6BrN3O
